US04820717
(1) 4-(N,N-diethylamino)-2-(1-naphthyl)butyronitrile
7 g of sodium amide are added in small quantities to 27.11 g of 1-naphthylacetonitrile in 210 ml of anhydrous benzene. The mixture is heated for 2 hours to reflux and 22 g of 2-chlorodiethylaminoethane are added, the heating being continued to reflux for another two and a half hours. Then, the mixture is cooled and 200 ml of water are added. After decanting, the organic phase is extracted by HCl at 10%. The aqueous phase is washed in ether, neutralized with NaOH at 10%, then extracted with ether. After evaporation of the solvents, a red oil is obtained, which is distilled in vacuo.

reactant | sodium amide | 7 g | [NH2-].[Na+]
reactant | 1-naphthylacetonitrile | 27.11 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 2-chlorodiethylaminoethane | 22 g | ClCCN(CC)CC | C6H14ClN
reactant | water | 200 ml | O | H2O
solvent | benzene | 210 ml | C1=CC=CC=C1 | C6H6
product | 4-(N,N-diethylamino)-2-(1-naphthyl)butyronitrile | C(C)N(CC)CCC(C#N)C1=CC=CC2=CC=CC=C12 | C18H22N2
